US07687529B2
tert-Butyl [3-hydroxy-3-phenylpropyl]methylcarbamate (0.52 g, 1.96 mmol) was dissolved in CH2Cl2 (5 mL) and cooled to 0° C. Triphenylphosphine (1.02 g, 3.9 mmol) was added followed by N-bromosuccinimide (0.59 g, 3.3 mmol) and the mixture was stirred for 45 minutes. The reaction mixture was loaded directly onto silica gel and immediately purified via Isco chromatography (Redisep, silica, gradient 0-30% ethyl acetate in hexane) to afford 100 mg of (3-bromo-3-phenyl-propyl)-methyl-amine.

reactant | tert-Butyl [3-hydroxy-3-phenylpropyl]methylcarbamate | 1.96 mmol, 0.52 g | OC(CCN(C(OC(C)(C)C)=O)C)C1=CC=CC=C1 | C15H23NO3
reactant | Triphenylphosphine | 3.9 mmol, 1.02 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 3.3 mmol, 0.59 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (3-bromo-3-phenyl-propyl)-methyl-amine | 100 mg | BrC(CCNC)C1=CC=CC=C1 | C10H14BrN
